US05942640
Preparation of N-(1-Cyano-1,2-dimethylpropyl)-2-(2,4-dichlorophenoxy)propionamide via a non-aqueous system
A stirred solution of (R)-2-(2,4-dichlorophenoxy)propionyl chloride (380.25 g, 1.5 mol) in toluene is cooled to -10° C. and treated simultaneously, with cooling, with 2-amino-2,3-dimethylbutyronitrile (168.3 g, 1.5 mol) and triethylamine (181.8 g, 1.8 mol) so as to maintain a reaction temperature range of -5° C. to -10° C. When the simultaneous addition of amines is complete, the reaction mixture is stirred at -5° C. for 2 hours, allowed to warm to room temperature in the absence of external heating, and treated with water. The phases are separated. The organic phase is cooled to 0° C., treated with 10% NaOH, and stirred for 1 hour at 0° C. The phases are separated. The organic phase is again washed with fresh 10% NaOH for 1 hour at 0° C., separated and washed a third time at 0° C. for 1 hour with fresh 10% NaOH. The organic phase is then washed sequentially with water, brine and water, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is crystallized in petroleum ether to give the title product as a white solid, 435 g (88% yield) identified by NMR analysis.

reactant | (R)-2-(2,4-dichlorophenoxy)propionyl chloride | 1.5 mol, 380.25 g | ClC1=C(O[C@@H](C(=O)Cl)C)C=CC(=C1)Cl | C9H7Cl3O2
reactant | 2-amino-2,3-dimethylbutyronitrile | 1.5 mol, 168.3 g | NC(C#N)(C(C)C)C | C6H12N2
reactant | triethylamine | 1.8 mol, 181.8 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-Cyano-1,2-dimethylpropyl)-2-(2,4-dichlorophenoxy)propionamide | 88% yield | C(#N)C(C(C)C)(C)NC(C(C)OC1=C(C=C(C=C1)Cl)Cl)=O | C15H18Cl2N2O2
